US06162832
5-Ethoxy-2-(4-hydroxyphenoxy)aniline
To a solution of 4-[4-(benzyloxy)phenoxy]-3-nitrophenetole (4.26 g, 11.7 mmol) in a mixture of ethanol (70 ml) and tetrahydrofuran (50 ml) was added 10% palladium-carbon (430 mg), followed by stirring under a hydrogen gas atmosphere at room temperature overnight. After removal of the insoluble matter by filtration, the solvent was evaporated under reduced pressure. The resulting crude crystals were recrystallized from a mixture of ethyl acetate and hexane (1:9) to give the title compound (2.63 g).

reactant | 4-[4-(benzyloxy)phenoxy]-3-nitrophenetole | 11.7 mmol, 4.26 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C=C2)OCC)[N+](=O)[O-])C=C1 | C21H19NO5
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 430 mg | [C].[Pd]
product | 5-Ethoxy-2-(4-hydroxyphenoxy)aniline | 2.63 g | C(C)OC=1C=CC(=C(N)C1)OC1=CC=C(C=C1)O | C14H15NO3
